2128-10-16 13:33:00 Physician Attending Progress Note
Chief Complaint: HOTN and hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 yo man with recent resection of LLL lung CA, admitted with HOTN, and
   hypoxemia.  In ED sat 88% on 4L, SBP in 90s.  Labs with ARF,
   transaminitis, dynamic EKG changes, but was asymptomatic.  CTA
   yesterday with no PE.  Impression was that he had transient HOTN
   leading to shock liver/mild ATN.
   24 Hour Events:
 LENIS ULTRASOUND - At [**2128-10-15**] 09:08 AM - no DVT.
 TRANSTHORACIC ECHO - At [**2128-10-15**] 11:09 AM  decreased LV systolic
   fxn.
 CALLED OUT
   Allergies:
   Oxycodone
   dizziness;
   Zanaflex (Oral) (Tizanidine Hcl)
   Hypotension;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   neurontin
   protonix
   plavix
   asa
   spiriva
   keppra
   klonopin
   flovent
   mucomyst po
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-10-16**] 01:30 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.5
   HR: 71 (68 - 81) bpm
   BP: 113/66(76) {83/44(36) - 136/107(115)} mmHg
   RR: 14 (11 - 19) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92 kg (admission): 92 kg
   Height: 72 Inch
                  Total In:
                                                                  3,558 mL
                                                                    300 mL
   PO:
                                                                  1,330 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  2,228 mL
   Blood products:
   Total out:
                                                                  2,590 mL
                                                                  1,320 mL
   Urine:
                                                                  2,590 mL
                                                                  1,320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    968 mL
                                                                 -1,020 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///33/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Absent), Left LLE stump.
   Respiratory / Chest: (Breath Sounds: Crackles : b/l)
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.0 g/dL
   191 K/uL
   98 mg/dL
   1.1 mg/dL
   33 mEq/L
   3.4 mEq/L
   25 mg/dL
   96 mEq/L
   134 mEq/L
   34.8 %
   5.7 K/uL
        [image002.jpg]
                            [**2128-10-14**]  07:53 PM
                            [**2128-10-15**]  05:07 AM
                            [**2128-10-15**]  01:25 PM
                            [**2128-10-15**]  01:26 PM
   WBC
   6.5
   5.7
   Hct
   34.0
   34.4
   34.8
   Plt
   175
   191
   Cr
   1.7
   1.4
   0.8
   1.1
   TropT
   0.61
   0.61
   Glucose
   122
   98
   98
   Other labs: PT / PTT / INR:16.5/67.1/1.5, CK / CKMB /
   Troponin-T:290/8/0.61, ALT / AST:1266/536, Alk Phos / T Bili:70/0.9,
   Lactic Acid:1.9 mmol/L, LDH:340 IU/L, Ca++:7.5 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.5 mg/dL
   Microbiology: negative EBV
   negative CMV
   Assessment and Plan
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   Chronic systolic HF.
   Pulmonary HTN.
 LIVER FUNCTION ABNORMALITIES
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOXEMIA
   Likely had HOTN and shock liver/ARF with combination of
   antihypertensives and poor PO intake.  Now improved.  No evidence of PE
   or infection.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2128-10-14**] 05:41 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes